US04171318
A suspension of 0.25 g. (0.78 mmole) of 2E,4E,6Z,8E-3,7-dimethyl-6-fluoro-9-(2,4,5-trimethyl-3-thienyl)-2,4,6,8-nonatetraenoic acid in 15 ml. of dry benzene was stirred at 23° C. under argon while about 5 mg. of dimethylformamide were added thereto followed by 0.20 g. (1.57 mmole) of oxalylchloride in 5 ml. of dry benzene. After one hour of stirring, dry ethylamine was bubbled into the resulting orange solution until a bright yellow color persisted. The reaction mixture was poured into water, extracted with ethyl acetate, washed with water, dried with magnesium sulfate, filtered and evaporated to give a crude orange solid. This material was purified by chromatography on silica gel using ethyl acetate-hexane (1:1 parts by volume) as elutant. One crystallization from ethyl acetate-hexane (1:1 parts by volume) gave 130 mg. (48% yield) of pure N-ethyl (2E,4E,6Z,8E)-3,7-dimethyl-6-fluoro-9-(2,4,5-trimethyl-3-thienyl)-2,4,6,8-nonatetraenamide, m.p. 167°-171° C.

reactant | 2E,4E,6Z,8E-3,7-dimethyl-6-fluoro-9-(2,4,5-trimethyl-3-thienyl)-2,4,6,8-nonatetraenoic acid | 0.78 mmole | C\C(=C/C(=O)O)\C=C\C(=C(\C=C\C1=C(SC(=C1C)C)C)/C)\F | C18H21FO2S
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | oxalylchloride | 1.57 mmole | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-ethyl (2E,4E,6Z,8E)-3,7-dimethyl-6-fluoro-9-(2,4,5-trimethyl-3-thienyl)-2,4,6,8-nonatetraenamide | 48% yield | C(C)NC(\C=C(\C=C\C(=C(\C=C\C1=C(SC(=C1C)C)C)/C)\F)/C)=O | C20H26FNOS
